US07425568B2
5-Methoxy-2-(2-phenylindan-5-yloxy)phenylamine was prepared as described for 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine in Example 3(b) using 200 mg of 5-(4-methoxy-2-nitrophenoxy)-2-phenylindane. 1H-NMR (400 MHz, d6-DMSO): 7.33-7.27 (m, 4H), 7.23-7.18 (m, 2H), 6.82 (d, 1H, J 8.4 Hz), 6.81 (s, 1H), 6.77 (dd, 1H, J 2.3, 8.4 Hz), 6.69 (d, 1H, J 2.3 Hz), 6.48 (bd, 1H, J 6.4 Hz), 3.71 (s, 3H), 3.66 (k, 1H, J 8.3 Hz), 3.24 (dd, 2H, J 8.3, 15.6 Hz), 2.93 (m, 2H). (M)+=331 (100%)

reactant | 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine | COC=1C=CC(=C(C1)N)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H21NO3
reactant | 5-(4-methoxy-2-nitrophenoxy)-2-phenylindane | 200 mg | COC1=CC(=C(OC=2C=C3CC(CC3=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C22H19NO4
product | 5-Methoxy-2-(2-phenylindan-5-yloxy)phenylamine | COC=1C=CC(=C(C1)N)OC=1C=C2CC(CC2=CC1)C1=CC=CC=C1 | C22H21NO2
